Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / bee sting
 
Attending: ___.
 
Chief Complaint:
CC:  fatigue, abdominal pain, pruritis

HPI(4): Dr. ___ is a ___ with h/o intermittent SVT, spinal
surgery for scoliosis, who presents with abnormal LFTs on
outpatient work up in setting of progressive fatigue and
epigastric and RUQ abdominal pain. Decreased appetite for six
weeks, epigastric pain 4 weeks. Pain is ___ at baseline and
___ with movement. Worsened this weekend, became more 
fatigued,
had night sweats. Also endorsed new onset pruritis of hands,
feet, and back for last 48 hours which she was frequently
scratching. Has had 35 lb intentional weight loss over past year
achieved with daily exercise but has been limited by abdominal
pain. Despite lack of appetite she denies nausea, vomiting and
says she has generally been making herself eat and keeping up
with hydration. In the ED, she denied chest pain, shortness of
breath, dysuria, neurological changes, constipation or diarrhea,
change in stool color or caliber. 

She was seen by her PCP who obtained labs that prompted them to
send her to ED.

Outpatient labs ___:
WBC 11.0, H+H 12.1/36.8, plt 228
Tbili 2.2, direct 1.4
Alk phos 328
AST 90 (as high as 340 ___
ALT 225 (as high as ___
Hep A/B/C negative
CMV IgM negative (IgG positive)
EBV IgM negative (IgG viral capsid, nuclear ag positive)
Monoscreen negative

Limited Gallbladder US: contracted gallbladder, no stones or GB
wall thickening, negative ___ sign, unremarkable limited view
of liver, pancreas, kidney.

Pt stated that given her worsening labs and symptoms and limited
resources in ___, her PCP instructed her to present to
___ for expedited work-up. Per pt report, PCP had been in
communication with Dr. ___, hepatology.

In the ED:
Exam: 
General: mildly uncomfortable, no acute distress
Cardiac: rrr, no mrg
Pulm: CTAB
Abd: soft, nondistended, liver percussed to 8 cm below the ribs,
tender to gentle palpation of RUQ and epigastric region,
hypoactive BS throughout
Ext: erythema of palmar and dorsal surfaces of hands 
bilaterally,
bilateral feet with excoriation and focal nonblanching petechiae

Labs:
___ WBC: 11.8* Hgb: 12.0 Hct: 38.___ 
___ ___: 1.1 
___ BMP WBL, ALT: 198* AST: 86* AlkPhos: 350* TotBili: 2.4*
DirBili: 1.6* IndBili: 0.8 
___ Albumin: 4.2 Calcium: 9.2 Phos: 3.7 Mg: 2.0 
___ AMA: Pending 
___ Lactate: 0.6 

___ ALT: 159* AST: 65* AlkPhos: 300* TotBili: 2.4* 

CT A/P: IMPRESSION: 
No evidence of acute abnormality. 
RECOMMENDATION(S): To examine the liver and bilary ducts further
if needed clinically, MRCP may be helpful. 

Note: wet read commented on hepatomegaly, which is not reported
in the final report

Patient received:
___ 02:16 PO/NG DiphenhydrAMINE 25 mg 

Upon arrival to floor, patient reports the above history, addint
that at the beginning of ___ she got strep pharyngitis
(confirmed with testing) on a trip to ___. Had high fever
up to 104 at ___. She was alternating Ibuprofen and Tylenol 
(never
over the daily dosing), odynophagia, improved rapidly with 5 
days
of azithromycin. During this time her abdomen was hurting but 
she
ignored it. People at work also had strep. After she was feeling
better from strep, she noticed abdominal pain was present all 
the
time, worse with activity (usually at gym 45 mins daily but had
to stop because of pain). She took  sucralfate and omeprazole 
for
a week with no relief. She told herself her pain was from NSAIDs
and then ignored it. Then she went to a work function last
___ (6 days before admission) noticed bitter taste in 
mouth,
getting hard to drink water because of a metallic taste in 
mouth,
did not eat much, then ___ wasn't feeling great, noticed
abdominal pain was severe, went to ER at ___ where she
had some labs drawn notable for abnormal LFTs and u/s noted
above, Tickborne panel sent as she lives in wooded area, and was
ultimately discharged. She notices pruritis is worse after
eating, located mostly palms, feet, and back. She has been
scratching a lot.

Labs included: 
___ Tbili 1.4, Dbili 0.4, ALT 270, AST 340, ALP 409, Lip 47 

___ Tbili 2.0, Dbili 0.7, ALT 296, AST 220, ALP 356 

In addition to above labs, Hep A IgM nonreactive
HbA1c ___ 4.9

Does not appear that Tickborne panel was actually sent despite
note and patient report. Most recent Lyme ___ negative.

She denies new medications, herbal supplements, ingestion of
toxic substances, illicit drug use. Has had possible exposure to
leptospirosis through work, 2 suspects, though both ultimately
tested negative. Sees Toxo in cats but otherwise uses universal
precaustions with birds, no primates. No international travel.
Eats sushi from reputable place. No sick contacts.

ROS: Pertinent positives and negatives as noted in the HPI. 10
point ROS otherwise negative.

PAST MEDICAL/SURGICAL HISTORY:
Mitral valve prolapse; mild mitral regurgitation per TTE,
___.
Palpitations consistent with PACs and PVCs.
Remote vasovagal syncope/neurocardiogenic syncope.
Atrial septal aneurysm without known PFO/ASD.
Spinal fusion surgery for scoliosis at age ___.
Functional ovarian cysts.
Lumbar vertebral fracture at age ___.

SOCIAL HISTORY:
___
FAMILY HISTORY: 
Adopted without knowledge of her biological family's medical
history.

ALLERGIES/ADR: penicillin (allergy from childhood, hives)

PREADMISSION MEDICATIONS:
The Preadmission Medication list is accurate and complete
-Not take any medications, no vitamins/supplements 

EXAM(8)
VITALS: ___ 1033 Temp: 98.6 PO BP: 121/79 L Sitting HR: 80
RR: 20 O2 sat: 100% O2 delivery: RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate, dry MM
CV: Heart regular, no murmur, no S3, no S4. 
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, TTP epigastrium, some RUQ but
not as severe. Bowel sounds present. Hepatomegaly.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes, but has ulcerations with crusting compatible
with scratching over the ankles, feet, scattered across the 
back,
abdomen
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
.
 
Past Medical History:
.
 
Social History:
___
Family History:
.
 
Physical Exam:
.
 
Pertinent Results:
___ 07:05AM BLOOD WBC-8.5 RBC-4.44 Hgb-12.5 Hct-40.0 MCV-90 
MCH-28.2 MCHC-31.3* RDW-13.5 RDWSD-45.0 Plt ___
___ 07:40AM BLOOD WBC-9.7 RBC-4.32 Hgb-12.3 Hct-38.8 MCV-90 
MCH-28.5 MCHC-31.7* RDW-13.2 RDWSD-44.0 Plt ___
___ 05:15AM BLOOD WBC-10.5* RBC-3.93 Hgb-11.3 Hct-35.1 
MCV-89 MCH-28.8 MCHC-32.2 RDW-13.4 RDWSD-44.5 Plt ___
___ 04:27PM BLOOD WBC-11.8* RBC-4.18 Hgb-12.0 Hct-38.0 
MCV-91 MCH-28.7 MCHC-31.6* RDW-13.6 RDWSD-45.5 Plt ___
___ 04:27PM BLOOD Neuts-70.1 Lymphs-17.3* Monos-8.0 Eos-3.4 
Baso-0.8 Im ___ AbsNeut-8.24* AbsLymp-2.03 AbsMono-0.94* 
AbsEos-0.40 AbsBaso-0.09*
___ 05:15AM BLOOD Hypochr-1+* Anisocy-1+* Poiklo-1+* 
Macrocy-1+* Ovalocy-1+* Echino-2+* RBC Mor-SLIDE REVI
___ 07:05AM BLOOD ___
___ 07:40AM BLOOD ___ PTT-35.5 ___
___ 05:15AM BLOOD ___ PTT-34.7 ___
___ 04:27PM BLOOD ___ PTT-34.6 ___
___ 07:05AM BLOOD Creat-0.7 Na-140 K-4.4 Cl-102 HCO3-24 
AnGap-14
___ 07:40AM BLOOD Glucose-69* UreaN-12 Creat-0.8 Na-143 
K-4.2 Cl-104 HCO3-22 AnGap-17
___ 05:15AM BLOOD Glucose-91 UreaN-9 Creat-0.8 Na-139 K-4.2 
Cl-105 HCO3-22 AnGap-12
___ 04:27PM BLOOD Glucose-96 UreaN-11 Creat-0.8 Na-140 
K-4.1 Cl-105 HCO3-23 AnGap-12
___ 07:05AM BLOOD ALT-120* AST-62* LD(LDH)-187 AlkPhos-312* 
TotBili-2.3* DirBili-1.6* IndBili-0.7
___ 07:40AM BLOOD ALT-133* AST-67* AlkPhos-310* 
TotBili-3.1*
___ 05:15AM BLOOD ALT-159* AST-65* LD(LDH)-192 AlkPhos-300* 
TotBili-2.4* DirBili-1.5* IndBili-0.9
___ 04:27PM BLOOD ALT-198* AST-86* AlkPhos-350* 
TotBili-2.4* DirBili-1.6* IndBili-0.8
___ 07:40AM BLOOD Calcium-9.1 Phos-3.8 Mg-1.8
___ 05:15AM BLOOD Calcium-8.9 Phos-3.7 Mg-2.0 Iron-69
___ 04:27PM BLOOD Albumin-4.2 Calcium-9.2 Phos-3.7 Mg-2.0
___ 05:15AM BLOOD calTIBC-304 ___ Ferritn-132 TRF-234
___ 05:15AM BLOOD TSH-2.2
___ 05:15AM BLOOD IgG-919 IgA-370 IgM-120
___ 07:40AM BLOOD HIV Ab-NEG

___ 05:15AM BLOOD Smooth-PND
___ 11:00PM BLOOD AMA-PND
___ 05:15AM BLOOD ___
___ 05:15AM BLOOD Lyme Ab-PND
___ 05:15AM BLOOD tTG-IgA-PND
___ 09:10AM BLOOD IGG SUBCLASSES 1,2,3,4-PND
___ 05:15AM BLOOD ANAPLASMA PHAGOCYTOPHILUM DNA, 
QUALITATIVE-PND

EXAMINATION:  MRCP 
  
INDICATION:  ___ year old woman with elevated tbili with CT c/f 
PBC vs PSC  // 
eval for PBC vs PSC 
  
TECHNIQUE:  T1- and T2-weighted multiplanar images of the 
abdomen were 
acquired in a 1.5 T magnet. 
Intravenous contrast: 6 mL Gadavist. 
Oral contrast:  1 cc of Gadavist mixed with 50 cc of water was 
administered 
for oral contrast. 
  
COMPARISON:  Prior abdominal CT from ___. 
  
FINDINGS:  
  
Lower Thorax: The visualized lower lungs are unremarkable.  No 
pericardial or 
pleural effusion. 
  
Liver: The liver is normal in size and shape.  No focal lesions 
are detected.  
No evidence of hepatic steatosis.  The hepatic arteries and 
veins are patent. 
  
Biliary: The gallbladder is decompressed.  No extrahepatic 
biliary dilation.  
Mild regular intrahepatic biliary dilation.  No strictures 
identified.  Mild 
contrast enhancement is noted in the common bile duct ___, 
71). 
  
Pancreas: The pancreas is normal in size and shape with normal 
tapering of the 
body.  Signals homogeneous throughout with no focal lesions 
detected. 
  
Spleen: The spleen is normal in size with no focal lesions. 
  
Adrenal Glands: The adrenal glands are unremarkable. 
  
Kidneys: The kidneys show symmetric size with normal nephrogram 
bilaterally.  
No focal lesions are identified.  No hydronephrosis, stones or 
perinephric 
abnormalities. 
  
Gastrointestinal Tract:  The stomach, duodenum and visualized 
segments of 
small enlarged bowel are unremarkable. 
  
Lymph Nodes: No retroperitoneal or mesenteric lymphadenopathy. 
  
Vasculature: Major vessels in the upper abdomen are patent and 
normal in 
caliber. 
  
Osseous and Soft Tissue Structures: Susceptibility artifacts are 
noted in the 
upper lumbar spine, due to spinal hardware from prior 
arthrodesis. 
  
IMPRESSION:  
  
Mild intrahepatic biliary dilation, notably in the right lobe 
with associated 
mild enhancement of the biliary tree and no strictures detected. 
 These 
findings are more suggestive of early primary sclerosing 
cholangitis. 

 
Brief Hospital Course:
She was admitted to the Hospitalist service with Hepatology 
consulting.  They stated the following, "Ms. ___ is a ___ 
with h/o intermittent SVT and mitral valve
prolapse, who presents with abnormal LFTs on outpatient work up
in setting of progressive fatigue and epigastric and RUQ
abdominal pain. 

Work-up at this time only notable for MRCP demonstrating mild
intrahepatic biliary dilation, predominantly in the right lobe
suggestive of early PSC. No symptoms of colitis without diarrhea
or blood in her stool in the past. AMA and ___ pending. Less
likely autoimmune hepatitis with normal immunoglobulins. Time
course, with past normal LFTs in ___ may indicate a more 
acute
process such as a viral illness, however has had negative 
work-up
including hep A/B/C, CMV IgM negative (IgG positive), EBV IgM
negative (IgG viral capsid, nuclear ag positive), and negative
Monoscreen... would be unusual for PSC to present with acute 
rise in lfts with
jaundice. Also PSC would not cause such acute fatigue. I suspect
a viral/infectious cause."

Her bilirubin increased from 2.4 to 3.1, but then decreased to 
2.3 the last day in the hospital.  Her AST and ALT were 
decreasing.  She stated that her fatigue and her appetite had 
improved.  We discussed that the work-up could completed as an 
outpatient and she agreed to this.  We also discussed that 
fatigue has many different causes, and if it persisted despite a 
thorough liver work-up, then she should talk to her PCP about 
what if any additional testing may be beneficial.  

The following tests were pending at the time of discharge and 
will be followed in ___ clinic: 
___ 05:15AM BLOOD Smooth-PND
___ 11:00PM BLOOD AMA-PND
___ 05:15AM BLOOD ___
___ 05:15AM BLOOD Lyme Ab-PND
___ 05:15AM BLOOD tTG-IgA-PND
___ 09:10AM BLOOD IGG SUBCLASSES 1,2,3,4-PND
___ 05:15AM BLOOD ANAPLASMA PHAGOCYTOPHILUM DNA, 
QUALITATIVE-PND

I spent > 30 min in discharge planning and coordination of care. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  HydrOXYzine 25 mg PO Q6H:PRN pruritis 
RX *hydroxyzine HCl 25 mg 1 pill by mouth four times a day Disp 
#*20 Tablet Refills:*0 
2.  Ibuprofen 400 mg PO TID:PRN Pain - Mild  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transaminitis
Hyperbilirubinemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with fatigue and 
transaminitis.  You were seen by the liver team who ordered 
additional tests to understand possible causes, but not all of 
them have returned.  You are well enough where you can complete 
this work-up as an outpatient.  If your fatigue persists, you 
can see your primary doctor as well to discuss additional steps. 
 
We wish you the best in your continued recovery, 
Your ___ Team 
 
Followup Instructions:
___